US07122543B2
4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoic acid
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl) benzoic acid (30 mg, 1.1820 mmol) was dissolved in a mixed solvent of acetonitrile (6 ml) and water (2 ml), then CAN (97 mg, 0.1770 mmol) was added thereto at room temperature and the mixture was stirred for 3 hour. The reaction solution was poured into water, neutralized with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (10% methanol-methylene chloride) to give the title compound (10 mg, 0.0254 mmol, 36%).

reactant | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl) benzoic acid | 1.1820 mmol, 30 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | CAN | 0.1770 mmol, 97 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | 4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoic acid | 0.0254 mmol, 10 mg, 36% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)C=1C=NC=CC1)C)=O | C22H19NO6
